US06166041
Preparation of 5-chloro-7-[2-(pyridin-2-yl)ethyl]-2-(thien-3-yl)-benzoxazole
This compound is prepared from 2-amino-4-chloro-6-[2-(pyridin-2-yl)ethyl]phenol, and 3-thienyl chloride using method A with 1,4-dioxan as solvent to give the crude amide in a 100% yield. This is treated with methanesulphonic acid in toluene at reflux, with azeotropic removal of water. Purification by flash chromatography (SiO2, EtOAc:hexanes 1:1), gave the title compound, (30%) as a white crystalline solid, m.p. 126-127° C. TLC (SiO2, EtOAc:hexanes 1:1, Rf=0.46). CI Mass Spectrum (methane), m/z=341 [M+H]+.

reactant | 2-amino-4-chloro-6-[2-(pyridin-2-yl)ethyl]phenol | NC1=C(C(=CC(=C1)Cl)CCC1=NC=CC=C1)O | C13H13ClN2O
reactant | 3-thienyl chloride | S1C=C(C=C1)Cl | C4H3ClS
reactant | methanesulphonic acid | CS(=O)(=O)O | CH4O3S
reactant | water | O | H2O
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-7-[2-(pyridin-2-yl)ethyl]-2-(thien-3-yl)-benzoxazole | 30% | ClC=1C=C(C2=C(N=C(O2)C2=CSC=C2)C1)CCC1=NC=CC=C1 | C18H13ClN2OS
